US05449785
To a mixture of methyl (1S,6R)-3,3-dimethyl-6-(1-methylvinyl)-2-oxocyclohexane-1-carboxylate (1.38 g) and cerium (II) chloride heptahydrate (2.14 g) in methanol (10 ml) was added sodium borohydride (217 mg) at 0° C. The mixture was stirred at room temperature for 1 hr, and the reaction was quenched by addition of water. The pH of the mixture was adjusted to pH 7 with 0.1N hydrochloric acid. The mixture was extracted with ether. The combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Purification of the residue by flash column chromatography (using n-hexane:ethyl acetate=20:1 as an eluent) gave methyl (1S,2R,6R)-2-hydroxy-3,3-dimethyl-6-(1-methylvinyl)cyclohexane-1-carboxylate (1.15 g, 83% yield).

reactant | methyl (1S,6R)-3,3-dimethyl-6-(1-methylvinyl)-2-oxocyclohexane-1-carboxylate | 1.38 g | CC1(C([C@H]([C@@H](CC1)C(=C)C)C(=O)OC)=O)C | C13H20O3
reactant | cerium (II) chloride heptahydrate | 2.14 g | O.O.O.O.O.O.O.[Cl-].[Ce+2].[Cl-]
reactant | sodium borohydride | 217 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl (1S,2R,6R)-2-hydroxy-3,3-dimethyl-6-(1-methylvinyl)cyclohexane-1-carboxylate | 1.15 g, 83% yield | O[C@@H]1[C@H]([C@@H](CCC1(C)C)C(=C)C)C(=O)OC | C13H22O3
